US09315462B2
Step 2: Synthesis of tert-butyl(5-methoxy-2-nitrobenzyloxy)dimethylsilane
To a solution of (5-methoxy-2-nitrophenyl)methanol (12.0 g, 65.6 mmol) in anhydrous THF (200 mL) and DMF (20 mL) was added imidazole (9.80 g, 144 mmol). Then TBSCl (11.8 g, 78.6 mmol) was added portionwise at 0° C. and the mixture was stirred at 30° C. for 2 hours. The mixture was quenched with ice-water (100 mL). An EtOAc workup was followed by removal of solvent in vacuo and purification by column chromatography (PE/EtOAc=10/1) to give the product (16.0 g, yield 84%) as a yellow oil.

reactant | (5-methoxy-2-nitrophenyl)methanol | 65.6 mmol, 12.0 g | COC=1C=CC(=C(C1)CO)[N+](=O)[O-] | C8H9NO4
reactant | imidazole | 144 mmol, 9.80 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 78.6 mmol, 11.8 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-butyl(5-methoxy-2-nitrobenzyloxy)dimethylsilane | 16.0 g, yield 84% | C(C)(C)(C)[Si](C)(C)OCC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C14H23NO4Si
